US07799805B2
(4-Chloro-3-formyl-benzyl)-methyl-carbamic acid tert-butyl ester
MnO2 (372 mg, 3.85 mmol) was added to a sol. of (4-chloro-3-hydroxymethyl-benzyl)-methyl-carbamic acid tert-butyl ester (110 mg, 0.385 mmol) in CH3CN (7.70 mL). The mixture was stirred at rt for 4.5 h, and MnO2 (186 mg, 1.93 mmol) was added again. The mixture was stirred for 1 h, and the mixture was filtered over Celite. The precipitate was washed with CH3CN and CH2Cl2. The filtrate was evaporated under reduced pressure. Drying the residue under high vacuum yielded the crude title compound (95 mg, 87%) that was used further without purification. LC-MS: tR=0.99 min.

reactant | (4-chloro-3-hydroxymethyl-benzyl)-methyl-carbamic acid tert-butyl ester | 0.385 mmol, 110 mg | C(C)(C)(C)OC(N(C)CC1=CC(=C(C=C1)Cl)CO)=O | C14H20ClNO3
solvent | CH3CN | 7.70 mL | CC#N | C2H3N
catalyst | MnO2 | 3.85 mmol, 372 mg | O=[Mn]=O
catalyst | MnO2 | 1.93 mmol, 186 mg | O=[Mn]=O
product | (4-Chloro-3-formyl-benzyl)-methyl-carbamic acid tert-butyl ester | 95 mg, 87% | C(C)(C)(C)OC(N(C)CC1=CC(=C(C=C1)Cl)C=O)=O | C14H18ClNO3
